US07393873B2
A solution of methyl 2-[(2-nitrophenyl)thio]benzoate (1.17 g, 4.04 mmol) in methanol (50 mL) was purged with nitrogen prior to the addition of 10% Pd/C catalyst (0.12 g). The mixture was again purged with nitrogen and then purged with hydrogen from a balloon. The mixture was stirred under hydrogen overnight. Additional amount of 10% Pd/C catalyst (0.24 g) was added, and the mixture was stirred under hydrogen overnight. The reaction mixture was filtered through a pad of celite, and the filtrate was concentrated. The residue was subjected to silica gel chromatography eluted with 100% DCM to provide methyl 2-[(2-aminophenyl)thio]benzoate as a yellow oil that crystallized over time. MS (ES, M+H+): 260.2

reactant | methyl 2-[(2-nitrophenyl)thio]benzoate | 4.04 mmol, 1.17 g | [N+](=O)([O-])C1=C(C=CC=C1)SC1=C(C(=O)OC)C=CC=C1 | C14H11NO4S
solvent | methanol | 50 mL | CO | CH4O
catalyst | Pd/C | 0.12 g | [Pd] | Pd
product | methyl 2-[(2-aminophenyl)thio]benzoate | NC1=C(C=CC=C1)SC1=C(C(=O)OC)C=CC=C1 | C14H13NO2S
